US09126946B2
To a solution of N-[4-methoxy-3-(2-methyl-2H-pyrazol-3-yl)phenyl]-acetamide (25.0 kg) in N,N-dimethylacetamide (DMA, 140.5 kg) in a 400 L glass lined jacketed reactor with overhead stirring under nitrogen at 45 to 55° C. internal temperature N-bromosuccinimide (NBS, 19.0 kg) was charged in portions at such a rate as to maintain internal temperature to less than 55° C. The reaction mixture remained a solution at this dilution of DMA and internal temperature of 50.9° C. An “in process check” of the reaction mixture to determine reaction completion after at least 1 hr of stirring at 50° C. showed that the reaction mixture was substantially free of the starting material. Upon cooling of the reaction mixture to an internal temperature of 34° C. water (150 kg) was added in a controlled manner into the reactor to maintain an internal temperature between 40-55° C. A slight exotherm was observed during the reaction quench. The product slurry was then cooled to −5 to 5° C. and filtered through a corrosion resistant filter/dryer. The wetcake was re-slurried, washed with water (2×25 kg), and dried under full house vacuum (˜30 in Hg) with a jacket temperature of 65° C. producing N-[3-(4 bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy phenyl]-acetamide (31.6 kg, 100% purity by HPLC, 96.1% yield).

reactant | N-[4-methoxy-3-(2-methyl-2H-pyrazol-3-yl)phenyl]-acetamide | 25.0 kg | COC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C | C13H15N3O2
reactant | N-bromosuccinimide | 19.0 kg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 150 kg | O | H2O
solvent | N,N-dimethylacetamide | 140.5 kg | CN(C(C)=O)C | C4H9NO
product | N-[3-(4 bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy phenyl]-acetamide | 31.6 kg, 96.1% yield | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OC)NC(C)=O | C13H14BrN3O2
